US07018988B2
(3EZ,5S)-5-[(4-acetyl-1-piperazinyl)carbonyl]-1-acryloyl-3-pyrrolidinone O-(3,4-dichlorobenzyl)oxime
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-{[(3,4-dichlorobenzyl)oxy]imino}-2-pyrrolidinecarboxylic acid, acryloyl chloride, and 1-acetylpiperazine the title compound was obtained in 79% purity by LC/MS. MS(ESI+): m/z=467.6.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-{[(3,4-dichlorobenzyl)oxy]imino}-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOCC1=CC(=C(C=C1)Cl)Cl)C(=O)O | C17H20Cl2N2O5
reactant | acryloyl chloride | C(C=C)(=O)Cl | C3H3ClO
reactant | 1-acetylpiperazine | C(C)(=O)N1CCNCC1 | C6H12N2O
product | (3EZ,5S)-5-[(4-acetyl-1-piperazinyl)carbonyl]-1-acryloyl-3-pyrrolidinone O-(3,4-dichlorobenzyl)oxime | ClC=1C=C(CON=C2CN([C@@H](C2)C(=O)N2CCN(CC2)C(C)=O)C(C=C)=O)C=CC1Cl | C21H24Cl2N4O4
